### PR TITLE
port to MathComp 2.6

### PR DESCRIPTION
**Pull request by affeldt-aist**
@garrigue @hoheinzollern @t6s @gregweng We'll soon have a new release of InfoTheo compatible with MCA 2.6.0!

### CODE REVIEW

**Comment by affeldt-aist** [comment]
(Should now be compatible with 9.1 and 9.2, I'll make an opam package tomorrow.)

File: ecc_classic/grs.v [hunk 1]
```diff
@@ -207,8 +206,12 @@ have [r0|r0] := eqVneq r 0.
   rewrite /GRS.syndromep poly_def big_ord0 mulr0.
   apply/eqP; rewrite eq_sym addr_eq0; apply/eqP.
   rewrite /GRS_mod /Omega /erreval -sumrN; apply: eq_bigr => j jy.
-  rewrite expr0 mulr1 mulrN opprK [in RHS]mulrC mulrC -!scalerA.
-  rewrite -scalerAl mulrC mul_polyC; congr (_ *: (_ *: _)).
+  rewrite expr0 mulr1 mulrN opprK.
```
Comment (t6s) [inline ecc_classic/grs.v:209]: there seems to have been some struggle here?

File: ecc_modern/ldpc.v [hunk 2]
```diff
@@ -80,17 +79,13 @@ Local Open Scope proba_scope.
 Local Open Scope vec_ext_scope.
 
 Section DMC_sub_vec_Fnext_Vgraph.
-Variables (B : finType) (W : `Ch('F_2, B)).
-Variable n' : nat.
-Let n := n'.+1.
-Variable tb : 'rV[B]_n.
-Variable m : nat.
-Variable H : 'M['F_2]_(m, n).
+Context {B : finType} (W : `Ch('F_2, B)) n' (n := n'.+1)
```
Comment (t6s) [inline ecc_modern/ldpc.v:82]: I didn't know that one can pack a Let inside a Context..

File: ecc_modern/tanner_partition.v [hunk 3]
```diff
@@ -655,8 +654,7 @@ apply/connectP; exists p' => //.
 apply: sub_path_except H3 => //.
 apply/negP => n1p'.
 move: Hun.
-rewrite -(cat1s (inl m0)) -(cat1s (inr n1)) -(cat1s (inl p2)) catA uniq_catCA.
-by rewrite catA uniq_catC -!catA catA cat_uniq uniq_catC /= n1p'.
+by rewrite !cons_uniq/= !inE n1p'/= andbF.
```
Comment (t6s) [inline ecc_modern/tanner_partition.v:657]: 👍

File: information_theory/kraft.v [hunk 4]
```diff
@@ -146,11 +145,11 @@ Lemma ary_of_nat_unfold n : ary_of_nat n =
   if n < t then [:: inord n] else rcons (ary_of_nat (n %/ t)) (inord (n %% t)).
 Proof.
 rewrite {1}/ary_of_nat Fix_eq //.
-  destruct n => //=.
-  congr cons; apply: val_inj => /=; by rewrite inordK.
-move=> m f f' H; congr ary_of_nat'.
-apply: FunctionalExtensionality.functional_extensionality_dep => k.
-by apply: FunctionalExtensionality.functional_extensionality.
+  move=> m f f' H; congr ary_of_nat'.
+  apply: FunctionalExtensionality.functional_extensionality_dep => k.
```
Comment (t6s) [inline information_theory/kraft.v]: we could use boolp to shorten lines here

File: information_theory/string_entropy.v [hunk 5]
```diff
@@ -111,9 +110,12 @@ rewrite /entropy /nHs /num_occ_dist /=.
 rewrite (big_morph _ (id1:=0) (@opprD _)) ?oppr0 // big_distrr /=.
 apply: eq_bigr => a _ /=; rewrite ffunE.
 case: ifPn => [/eqP -> | Hnum]; first by rewrite !mul0r oppr0 mulr0.
-rewrite (mulrC N(a | s)%:R) mulrN 3![in LHS]mulrA mulrV ?unitfE ?pnatr_eq0 //.
-rewrite mul1r -mulrA -mulrN -logV 1?mulrC ?invf_div //.
-by apply: divr_gt0; rewrite ltr0n lt0n.
+rewrite -mulrN.
```
Comment (t6s) [inline information_theory/string_entropy.v]: another struggle?

**Review by t6s — APPROVED** [review]
Looks good. I have left some minor comments.

File: ecc_classic/grs.v (hunk 1 above)
Comment (affeldt-aist) [reply ecc_classic/grs.v:209]: This is one situation where Rocq 9.1 and 9.2 don't agree. :-(

File: information_theory/string_entropy.v (hunk 5 above)
Comment (affeldt-aist) [reply information_theory/string_entropy.v]: Again the difference between 9.1 and 9.2.

File: ecc_modern/ldpc.v (hunk 2 above)
Comment (affeldt-aist) [reply ecc_modern/ldpc.v:82]: `Context` is similar to arguments in `Definition`s so that most of the time it is better suited than `Variable` (that we are removing from MathComp-Analysis by the way, they should also be remove from InfoTheo imo).
